US08030499B2
Step 246-1: Synthesis of 5-chloro-3-hydroxy-3-(4-methoxybiphenyl-3-yl)-1,3-dihydro-2H-indol-2-one
With 18.4 g of 4-methoxybiphenyl and 15.1 g of 5-chloroisatin as starting materials, 15.2 g of the title compound (yellow solid) was obtained by a similar method to Step 245-1.

reactant | 4-methoxybiphenyl | 18.4 g | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
reactant | 5-chloroisatin | 15.1 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-hydroxy-3-(4-methoxybiphenyl-3-yl)-1,3-dihydro-2H-indol-2-one | 15.2 g | ClC=1C=C2C(C(NC2=CC1)=O)(C=1C=C(C=CC1OC)C1=CC=CC=C1)O | C21H16ClNO3
